US06492384B1
An alternative process leads to “BB” as follows (analogously to Mederski et al., J. Med. Chem. 1994, 1632 ff): reaction of 3,4-diamino-2-chloropyridine with isobutyric anhydride to give N-(4-amino-2-chloropyridin-3-yl)isobutyramide. The subsequent reaction with 3-(7-bromomethylnaphthalen-2-yl)-5-methyl-[1,2,4]oxadiazole leads to a mixture of 4-chloro-2-isopropyl-3-[7-(5-methyl[1,2,4]oxadiazol-3-yl)naphth-2-ylmethyl]-3H-imidazo[4,5-c]pyridine and N-(4-amino-2-chloropyridin-3-yl)-N-[7-(5-methyl[1,2,4]oxadiazol-3-yl)naphth-2-ylmethyl]isobutyramide. Both compounds are reacted to give “BB”.

reactant | 3,4-diamino-2-chloropyridine | NC=1C(=NC=CC1N)Cl | C5H6ClN3
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | N-(4-amino-2-chloropyridin-3-yl)isobutyramide | NC1=C(C(=NC=C1)Cl)NC(C(C)C)=O | C9H12ClN3O
